US08242175B2
A solution of (E)-3-{5-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-pyridin-2-yl}-acrylic acid tert-butyl ester (700 mg, 1.92 mmol) and TFA (2.9 ml) in DCM (10 ml) was stirred at room temperature for 3 h and then the solvent was evaporated in vacuo. The resulting yellow solid was treated with a solution of KOH (240 mg, 4.28 mmol) in EtOH (30 ml) for 30 min. The mixture was acidified with HCl/Et2O and the solid was filtered with a buchner funnel. The powder was dissolved in DCM (10 ml), DMF (10 ml) and TEA (1.1 ml, 7.76 mmol), HOBT (524 mg, 3.88 mmol), EDC (741 mg, 3.88 mmol) and NH2OTHP (227 mg, 1.94 mmol) were added. The solution was stirred at room temperature overnight and then diluted with water and extracted twice with DCM. The organic layer was washed with water, dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: DCM/MeOH/NH4OH 95:5:0.1) to give 230 mg of (E)-3-{5-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-pyridin-2-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide.

reactant | (E)-3-{5-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-pyridin-2-yl}-acrylic acid tert-butyl ester | 1.92 mmol, 700 mg | C(C)(C)(C)OC(\C=C\C1=NC=C(C=C1)\C=C\C(=O)C1=CC=C(C=C1)CO)=O | C22H23NO4
reactant | TFA | 2.9 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | KOH | 4.28 mmol, 240 mg | [OH-].[K+]
reactant | HCl Et2O | Cl.CCOCC
reactant | HOBT | 3.88 mmol, 524 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.88 mmol, 741 mg
reactant | NH2OTHP | 1.94 mmol, 227 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-3-{5-[(E)-3-(4-hydroxymethyl-phenyl)-3-oxo-propenyl]-pyridin-2-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 230 mg | OCC1=CC=C(C=C1)C(/C=C/C=1C=CC(=NC1)/C=C/C(=O)NOC1OCCCC1)=O | C23H24N2O5
